US07109212B2
4-(5-Fluoro-2-methoxyphenyl)-1-(2-quinolon-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 20, 226 mg (0.73 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 140 mg (0.87 mmol) of 5-amino-2-quinolone are reacted to form 200 mg of the product.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 0.73 mmol, 226 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-amino-2-quinolone | 0.87 mmol, 140 mg | NC1=C2C=CC(NC2=CC=C1)=O | C9H8N2O
product | 4-(5-Fluoro-2-methoxyphenyl)-1-(2-quinolon-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 200 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(NC2=CC=C1)=O)(O)C(F)(F)F)(C)C)OC | C23H24F4N2O3
